US05976485
Sulfur dioxide is introduced into a solution of sodium sulfite and sodium bisulfite to form sodium bisulfite in a solution having dissolved sulfur dioxide present with a pH between 3.5 and 4.2. The solution is drawn to a cooling crystallizer where an alkali such as soda ash, caustic soda, sodium sulfite, and mixtures thereof is added to produce additional sodium metabisulfite that increases the yield of sodium metabisulfite crystallizing per pass. The mother liquor is recycled.

reactant | sulfur dioxide | S(=O)=O | O2S
reactant | caustic soda | [OH-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
product | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+] | InChI=1S/2Na.H2O5S2/c;;1-6(2)7(3,4)5/h;;(H,1,2)(H,3,4,5)/q2*+1;/p-2
